US07750184B2
A. N-(4-{1-[4-(3,3-dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-2-methyl-phenyl)-2-chloro-ethanesulfonamide
Using a procedure analogous to Example 17, 1-{4-[1-(4-amino-3-methyl-phenyl)-1-ethyl-propyl]-2-methyl-phenoxy}-3,3-dimethyl-butan-2-one (382 mg, 1 mmol), 2-chloro-ethanesulfonyl chloride (0.1 mL, 1 mmol) and triethylamine (0.14 mL, 1 mmol) give the title compound as a oil (500 mg, quant.)

reactant | 1-{4-[1-(4-amino-3-methyl-phenyl)-1-ethyl-propyl]-2-methyl-phenoxy}-3,3-dimethyl-butan-2-one | 1 mmol, 382 mg | NC1=C(C=C(C=C1)C(CC)(CC)C1=CC(=C(OCC(C(C)(C)C)=O)C=C1)C)C | C25H35NO2
reactant | 2-chloro-ethanesulfonyl chloride | 1 mmol, 0.1 mL | ClCCS(=O)(=O)Cl | C2H4Cl2O2S
reactant | triethylamine | 1 mmol, 0.14 mL | C(C)N(CC)CC | C6H15N
product | N-(4-{1-[4-(3,3-dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-2-methyl-phenyl)-2-chloro-ethanesulfonamide | 500 mg | CC(C(COC1=C(C=C(C=C1)C(CC)(CC)C1=CC(=C(C=C1)NS(=O)(=O)CCCl)C)C)=O)(C)C | C27H38ClNO4S
